US04081538
Commercially available 1,4-pregnendiene-3-one was incubated with aldosterone-producing adrenal tissue and Δ1 18-hydroxycorticosterone isolated chromatographically. The diol was then converted to the 11β,18-oxido derivative by refluxing for 30 minutes in ethylene dichloride containing p-toluenesulfonic acid in the same manner described in connection with Example 1 above.

reactant | 1,4-pregnendiene-3-one | C=C[C@H]1CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O | C21H28O
reactant | aldosterone | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2[C@H](C[C@]4([C@H]3CC[C@@H]4C(=O)CO)C=O)O | C21H28O5
product | 18-hydroxycorticosterone | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2[C@H](C[C@]4([C@H]3CC[C@@H]4C(=O)CO)CO)O | C21H30O5
